US04308270
To 5.0 g. of 3-phenyl-6-chloromethyl-5,6-dihydro-4H-1,2,4-oxadiazine (Chem. Ber. 108, 1911 (1975) 37 ml. of cyclohexyl amine are added. The reaction mixture is then refluxed for 10 hours. The excess of cyclohexyl amine is evaporated in vacuo and to the evaporation residue 100 ml. of ethyl acetate are added. The mixture is brought to the boil and the insoluble substances are filtered off while hot. The mother liquor is evaporated in vacuo, the residue is dissolved in isopropanol and the solution is acidified by introducing hydrogen chloride gas. 4.0 g. of 3-phenyl-6-cyclohexylaminomethyl-5,6-dihydro-4H-1,2,4-oxadiazine dihydrochloride are obtained, melting at 240° to 244° C. (after recrystallization from isopropanol).

reactant | 3-phenyl-6-chloromethyl-5,6-dihydro-4H-1,2,4-oxadiazine | C1(=CC=CC=C1)C1=NOC(CN1)CCl | C10H11ClN2O
reactant | cyclohexyl amine | C1(CCCCC1)N | C6H13N
product | 3-phenyl-6-cyclohexylaminomethyl-5,6-dihydro-4H-1,2,4-oxadiazine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1=NOC(CN1)CNC1CCCCC1 | InChI=1S/C16H23N3O.2ClH/c1-3-7-13(8-4-1)16-18-12-15(20-19-16)11-17-14-9-5-2-6-10-14;;/h1,3-4,7-8,14-15,17H,2,5-6,9-12H2,(H,18,19);2*1H
